### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology): simplicial homology

### PR DESCRIPTION
**Pull request by joelriou**
This PRs add some API for simplicial homology, the homology of simplicial sets.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/HomotopyInvariance.lean [hunk 1]
```diff
@@ -39,6 +38,8 @@ using the definition `SSet.Homotopy.toSimplicialObjectHomotopy` from the file
 
 @[expose] public section
 
+assert_not_exists TopologicalSpace
```
Comment (erdOne) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/HomotopyInvariance.lean:44]: Can you point people to `Mathlib/AlgebraicTopology/SingularHomology/HomotopyInvarianceTopCat.lean` here? Thanks.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Homology/HomotopyInvariance.lean:44]: Thanks for the suggestion!

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,153 @@
...
+      ∑ (i : Fin (n + 2)), (-1) ^ i.val • X.ιChainComplex (X.δ i x) := by
+  simp [ιChainComplex, chainComplex, chainComplexFunctor, Preadditive.comp_sum]
+
+@[reassoc (attr := simp)]
+lemma ι_chainComplexMap_f {n : ℕ} (x : X _⦋n⦌) :
+    X.ιChainComplex x ≫ (chainComplexMap f R).f n =
+      Y.ιChainComplex (f.app _ x) := by
+  dsimp [chainComplexMap, chainComplexFunctor, ιChainComplex, Sigma.map']
+  simp only [Category.id_comp]
+  apply Sigma.ι_desc
```
Comment (dagurtomas) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]:
```suggestion
  dsimp [chainComplexMap, chainComplexFunctor, ιChainComplex, Sigma.map',
    chainComplex, chainComplexFunctor]
  simp [Sigma.ι_desc]
```

Comment (dagurtomas) [reply Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]: Or if you add `@[simps!]` on `chainComplexFunctor`, then 
```lean
  dsimp [chainComplexMap, chainComplexFunctor, ιChainComplex, Sigma.map']
  simp [Sigma.ι_desc]
```
works

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

Don't forget to open a followup PR deprecating the deleted file

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,153 @@
...
+
+variable {X Y} in
+/-- The morphism in simplicial homology that is induced by a morphism
+of simplicial sets. -/
+protected noncomputable abbrev homologyMap (n : ℕ) : X.homology R n ⟶ Y.homology R n :=
+  HomologicalComplex.homologyMap (chainComplexMap f R) n
+
+@[simp]
+lemma homologyMap_id (n : ℕ) :
+    SSet.homologyMap (𝟙 X) R n = 𝟙 _ := by
```
Comment (vlad902) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]:
```suggestion
lemma homologyMap_id (n : ℕ) : SSet.homologyMap (𝟙 X) R n = 𝟙 _ := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/HomotopyInvariance.lean [hunk 4]
```diff
@@ -39,6 +38,11 @@ using the definition `SSet.Homotopy.toSimplicialObjectHomotopy` from the file
 
 @[expose] public section
 
+/-! The invariance of singular homology (of topological spaces)
+is obtained in the file
+`Mathlib/AlgebraicTopology/SingularHomotopy/HomotopyInvarianceTopCat.lean`. -/
```
Comment (vlad902) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/HomotopyInvariance.lean]:
```suggestion
`Mathlib/AlgebraicTopology/SingularHomology/HomotopyInvarianceTopCat.lean`. -/
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,153 @@
...
+/-- The morphism of simplicial chain complexes induces by a morphism
+of simplicial sets. -/
+noncomputable abbrev chainComplexMap : X.chainComplex R ⟶ Y.chainComplex R :=
+  ((SSet.chainComplexFunctor C).obj R).map f
+
+variable {R} in
+/-- The inclusion `R ⟶ (X.chainComplex R).X n` of the summand
+corresponding to a `n`-simplex `x : X _⦋n⦌`. -/
+noncomputable def ιChainComplex {n : ℕ} (x : X _⦋n⦌) :
+    R ⟶ (X.chainComplex R).X n :=
```
Comment (vlad902) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]:
```suggestion
noncomputable def ιChainComplex {n : ℕ} (x : X _⦋n⦌) : R ⟶ (X.chainComplex R).X n :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,153 @@
...
+    X.ιChainComplex x ≫ (chainComplexMap f R).f n =
+      Y.ιChainComplex (f.app _ x) := by
+  dsimp [chainComplexMap, chainComplexFunctor, ιChainComplex, Sigma.map',
+    chainComplex, chainComplexFunctor]
+  simp [Sigma.ι_desc]
+
+/-- The colimit cofan which defines the simplicial `n`-chains
+`(X.chainComplex R).X n`. -/
+noncomputable def chainComplexXCofan (n : ℕ) :
+    Cofan (fun (_ : X _⦋n⦌) ↦ R) :=
```
Comment (vlad902) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]:
```suggestion
noncomputable def chainComplexXCofan (n : ℕ) : Cofan (fun (_ : X _⦋n⦌) ↦ R) :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,153 @@
...
+  Cofan.mk _ X.ιChainComplex
+
+/-- Simplicial `n`-chains `(X.chainComplex R).X n` of a simplicial set `X`
+with coefficients in `R` identify to a coproduct of copies of `R`
+indexed by `X _⦋n⦌`. -/
+noncomputable def isColimitChainComplexXCofan (n : ℕ) :
+    IsColimit (X.chainComplexXCofan R n) :=
```
Comment (vlad902) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]:
```suggestion
noncomputable def isColimitChainComplexXCofan (n : ℕ) : IsColimit (X.chainComplexXCofan R n) :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,153 @@
...
+variable (C : Type u) [Category.{v} C] [HasCoproducts.{w} C] [Preadditive C]
+
+/--
+The chain complex associated to a simplicial set, with coefficients in `R : C`.
+It computes the simplicial homology of a simplicial sets with coefficients
+in `R`. One can recover the ordinary simplicial chain complex when `C := Ab`
+and `X := ℤ`.
+-/
+noncomputable def chainComplexFunctor :
+    C ⥤ SSet.{w} ⥤ ChainComplex C ℕ :=
```
Comment (vlad902) [inline Mathlib/AlgebraicTopology/SimplicialSet/Homology/Basic.lean]:
```suggestion
noncomputable def chainComplexFunctor : C ⥤ SSet.{w} ⥤ ChainComplex C ℕ :=
```

**Review by vlad902 — COMMENTED** [review]
A typo + small style nits about fitting types on one line if possible. Am I missing that there is maybe a different convention in this part of mathlib?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
